US08334287B2
4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1-(2-hydroxy-ethyl)-1H-pyridin-2-one
The title compound, orange gum, MS: m/e=354.2, 356.2 (M+H+), was prepared in accordance with the general method of example 3 from 4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1H-pyridin-2-one and 2-iodoethanol.

reactant | 4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1H-pyridin-2-one | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC(NC=C1)=O)C | C17H12ClN3O
reactant | 2-iodoethanol | ICCO | C2H5IO
product | 4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1-(2-hydroxy-ethyl)-1H-pyridin-2-one | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC(N(C=C1)CCO)=O)C | C19H16ClN3O2
